US08071581B2
Step 2: trans 2-quinolin-6-yl-cyclopropanecarboxylic acid
To a solution of trans 2-quinolin-6-yl-cyclopropanecarboxylic acid ethyl ester (125 mg, 0.523 mmol) in methanol (2 mL) was added 4 M aqueous solution of lithium hydroxide (0.65 mL, 2.62 mmol). The reaction mixture was stirred at room temperature for 3 h then it was concentrated in vacuo, diluted with water, and treated with 1 N aqueous hydrochloric acid until pH 4-5. The resulting precipitate was filtered, washed with water, and dried in vacuo to provide 102 mg of product as a white solid. 1H NMR 500 MHz (DMSO) δ 1.50 (m, 2H), 1.96 (m, 1H), 2.60 (m, 1H), 7.50 (dd, 1H), 7.57 (dd, 1H), 7.78 (d, 1H), 7.93 (d, 1H), 8.26 (dd, 1H), 8.83 (dd, 1H); MS (m/z) 214 [M+H+]+.

reactant | trans 2-quinolin-6-yl-cyclopropanecarboxylic acid ethyl ester | 0.523 mmol, 125 mg | C(C)OC(=O)[C@H]1[C@@H](C1)C=1C=C2C=CC=NC2=CC1 | C15H15NO2
reactant | lithium hydroxide | 2.62 mmol, 0.65 mL | [OH-].[Li+]
solvent | methanol | 2 mL | CO | CH4O
product | trans 2-quinolin-6-yl-cyclopropanecarboxylic acid | 102 mg | N1=CC=CC2=CC(=CC=C12)[C@H]1[C@@H](C1)C(=O)O | C13H11NO2
